US06589978B2
d) (2RS,5SR)-5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester
To a stirred solution of methyl (2RS,5SR)-5-(4-fluoro-phenyl)-pyrrolidine-2-carboxylate (2.27 g, 10.2 mmol) and triethylamine (2.13 ml, 15.3 mmol) in dichloromethane (60 ml) was added at 0° C. toluene-4-sulfonyl chloride (2.32 g, 12.2 mmol). The mixture was stirred at RT for 16 h, evaporated, dissolved in water (50 ml) and extracted with dichloromethane (2×40 ml). The combined organic layers were washed with water (40 ml), brine (40 ml), dried (MgSO4) and evaporated. The crude product was purified by crystallization from diethyl ether/hexane to give the title compound, off-white solid, m.p. 91° C. and MS: m/e=378.3 (M+H+).

reactant | methyl (2RS,5SR)-5-(4-fluoro-phenyl)-pyrrolidine-2-carboxylate | 10.2 mmol, 2.27 g | FC1=CC=C(C=C1)C1CCC(N1)C(=O)OC | C12H14FNO2
reactant | triethylamine | 15.3 mmol, 2.13 ml | C(C)N(CC)CC | C6H15N
reactant | toluene-4-sulfonyl chloride | 12.2 mmol, 2.32 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (2RS,5SR)-5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)C1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C19H20FNO4S
